US07132436B2
3-Chloro-N-[4-(4-fluoro-3-methylphenyl)-1,3-thiazol-2-yl]-2-methylbenzenesulfonamide
The title compound was prepared from 2-amino-4-(4′-fluoro-3′-methyl)phenylthiazole and 3-chloro-2-methylbenzenesulfonyl chloride as described in the synthetic METHOD B to give a white solid (39.7 mg) with purity >90%. MS (pos) m/z 397.1.

reactant | 2-amino-4-(4′-fluoro-3′-methyl)phenylthiazole | CC1=C(C=CC(=C1)C2=CSC(=N2)N)F | C10H9FN2S
reactant | 3-chloro-2-methylbenzenesulfonyl chloride | ClC=1C(=C(C=CC1)S(=O)(=O)Cl)C | C7H6Cl2O2S
product | 3-Chloro-N-[4-(4-fluoro-3-methylphenyl)-1,3-thiazol-2-yl]-2-methylbenzenesulfonamide | ClC=1C(=C(C=CC1)S(=O)(=O)NC=1SC=C(N1)C1=CC(=C(C=C1)F)C)C | C17H14ClFN2O2S2
